US08664220B2
Step 2: [5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-yl]-{1-methyl-2-[4-(4-trifluoromethyl-benzyloxy)-phenyl]-ethyl}-amine
Prepared according to the procedure described in Example 36, Step 2, using 5-(4-bromo-phenyl)-3-methyl-isoxazol-4-ylamine and 1-[4-(4-trifluoromethyl-benzyloxy)-phenyl]-propan-2-one.

reactant | 5-(4-bromo-phenyl)-3-methyl-isoxazol-4-ylamine | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)N | C10H9BrN2O
reactant | 1-[4-(4-trifluoromethyl-benzyloxy)-phenyl]-propan-2-one | FC(C1=CC=C(COC2=CC=C(C=C2)CC(C)=O)C=C1)(F)F | C17H15F3O2
product | [5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-yl]-{1-methyl-2-[4-(4-trifluoromethyl-benzyloxy)-phenyl]-ethyl}-amine | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)NC(CC1=CC=C(C=C1)OCC1=CC=C(C=C1)C(F)(F)F)C | C27H24BrF3N2O2
